* C:\Users\malen\Desktop\filtroFinal\TC-TPFF\simulaciones\sim_etapasJuntas.asc
XU1 0 N001 +vcc -vcc N004 TL084
XU2 0 N003 +vcc -vcc vo_1 TL084
XU3 0 N005 +vcc -vcc N002 TL084
R1_1 N002 N001 4.5k
R2_1 N004 N001 59.583k
R3_1 N001 N006 180k
R4_1 N003 N004 59583
R5_1 vo_1 N003 171.5k
R6_1 N005 vo_1 178k
R7_1 N003 N006 180k
R8_1 N005 N006 180k
C1_1 N004 N001 1n
C2_1 N002 N005 1n
XU4 0 N013 +vcc -vcc N017 TL084
XU5 0 N015 +vcc -vcc vo_2 TL084
XU6 0 N018 +vcc -vcc N014 TL084
R1_2 N014 N013 4417
R2_2 N017 N013 54187
R3_2 N013 N016 180k
R4_2 N015 N017 54187
R5_2 vo_2 N015 185k
R6_2 N018 vo_2 178k
R7_2 N015 N016 180k
R8_2 N018 N016 180k
C1_2 N017 N013 1n
C2_2 N014 N018 1n
XU7 0 N025 +vcc -vcc N029 TL084
XU8 0 N028 +vcc -vcc vo_3 TL084
XU9 0 N030 +vcc -vcc N026 TL084
R1_3 N026 N025 3150
R2_3 N029 N025 69k
R3_3 N025 N027 180k
R4_3 N028 N029 69k
R5_3 vo_3 N028 197k
R6_3 N030 vo_3 178k
R7_3 N028 N027 180k
R8_3 N030 N027 180k
C1_3 N029 N025 1n
C2_3 N026 N030 1n
XU10 0 N031 +vcc -vcc N035 TL084
XU11 0 N033 +vcc -vcc vo_4 TL084
XU12 0 N036 +vcc -vcc N032 TL084
R1_4 N032 N031 3320
R2_4 N035 N031 87k
R3_4 N031 N034 180k
R4_4 N033 N035 89k
R5_4 vo_4 N033 161k
R6_4 N036 vo_4 178.2k
R7_4 N033 N034 180k
R8_4 N036 N034 180k
C1_4 N035 N031 1n
C2_4 N032 N036 1n
XU13 0 N007 +vcc -vcc N011 TL084
XU14 0 N009 +vcc -vcc vo_5 TL084
XU15 0 N012 +vcc -vcc N008 TL084
R1_5 N008 N007 1227
R2_5 N011 N007 245
R3_5 N007 N010 180k
R4_5 N009 N011 245
R5_5 vo_5 N009 155.5k
R6_5 N012 vo_5 178.2k
R7_5 N009 N010 180k
R8_5 N012 N010 180k
C1_5 N011 N007 1n
C2_5 N008 N012 1n
XU16 0 N019 +vcc -vcc N023 TL084
XU17 0 N022 +vcc -vcc vo_6 TL084
XU18 0 N024 +vcc -vcc N020 TL084
R1_6 N020 N019 1133
R2_6 N023 N019 186k
R3_6 N019 N021 180k
R4_6 N022 N023 186k
R5_6 vo_6 N022 205k
R6_6 N024 vo_6 178k
R7_6 N022 N021 180k
R8_6 N024 N021 180k
C1_6 N023 N019 1n
C2_6 N020 N024 1n
V1 N006 0 ac 1
XU19 vo_1 N016 +vcc -vcc N016 TL084
XU20 vo_2 N027 +vcc -vcc N027 TL084
XU21 vo_3 N034 +vcc -vcc N034 TL084
XU22 vo_4 N010 +vcc -vcc N010 TL084
XU23 vo_5 N021 +vcc -vcc N021 TL084
V2 +vcc 0 15
V3 0 -vcc 15
.inc TL084.MOD
.ac dec 100 100 200k
;tran 0 10m 0 startup
.backanno
.end
