* C:\Users\malen\Desktop\filtroFinal\TC-TPFF\simulaciones\sim_etapasJuntas.asc
R1_1 N002 N001 4.5k
R2_1 N004 N001 59.6k
R3_1 N001 N006 180k
R4_1 N003 N004 59.6k
R5_1 vo_1 N003 171.5k
R6_1 N005 vo_1 178k
R7_1 N003 N006 180k
R8_1 N005 N006 180k
C1_1 N004 N001 1n
C2_1 N002 N005 1n
R1_2 N013 N012 4417
R2_2 N015 N012 54190
R3_2 N012 vo_1 180k
R4_2 N014 N015 54190
R5_2 vo_2 N014 185k
R6_2 N016 vo_2 178k
R7_2 N014 vo_1 180k
R8_2 N016 vo_1 180k
C1_2 N015 N012 1n
C2_2 N013 N016 1n
R1_3 N023 N022 3.15k
R2_3 N025 N022 66.5kk
R3_3 N022 vo_2 180k
R4_3 N024 N025 66.5k
R5_3 vo_3 N024 197k
R6_3 N026 vo_3 178k
R7_3 N024 vo_2 180k
R8_3 N026 vo_2 180k
C1_3 N025 N022 1n
C2_3 N023 N026 1n
R1_4 N028 N027 3332
R2_4 N030 N027 89k
R3_4 N027 vo_3 180k
R4_4 N029 N030 89k
R5_4 vo_4 N029 161k
R6_4 N031 vo_4 178k
R7_4 N029 vo_3 180k
R8_4 N031 vo_3 180k
C1_4 N030 N027 1n
C2_4 N028 N031 1n
R1_5 N008 N007 1227
R2_5 N010 N007 248k
R3_5 N007 vo_4 180k
R4_5 N009 N010 248k
R5_5 vo_5 N009 156k
R6_5 N011 vo_5 178k
R7_5 N009 vo_4 180k
R8_5 N011 vo_4 180k
C1_5 N010 N007 1n
C2_5 N008 N011 1n
R1_6 N018 N017 1133
R2_6 N020 N017 190k
R3_6 N017 vo_5 180k
R4_6 N019 N020 190k
R5_6 vo_6 N019 205k
R6_6 N021 vo_6 178k
R7_6 N019 vo_5 180k
R8_6 N021 vo_5 180k
C1_6 N020 N017 1n
C2_6 N018 N021 1n
V1 N006 0 ac 1
V2 +vcc 0 15
V3 0 -vcc 15
XU1 0 N001 +vcc -vcc N004 TL084
XU2 0 N003 +vcc -vcc vo_1 TL084
XU3 0 N005 +vcc -vcc N002 TL084
XU4 0 N012 +vcc -vcc N015 TL084
XU5 0 N014 +vcc -vcc vo_2 TL084
XU6 0 N016 +vcc -vcc N013 TL084
XU7 0 N022 +vcc -vcc N025 TL084
XU8 0 N024 +vcc -vcc vo_3 TL084
XU9 0 N026 +vcc -vcc N023 TL084
XU10 0 N027 +vcc -vcc N030 TL084
XU11 0 N029 +vcc -vcc vo_4 TL084
XU12 0 N031 +vcc -vcc N028 TL084
XU13 0 N007 +vcc -vcc N010 TL084
XU14 0 N009 +vcc -vcc vo_5 TL084
XU15 0 N011 +vcc -vcc N008 TL084
XU16 0 N017 +vcc -vcc N020 TL084
XU17 0 N019 +vcc -vcc vo_6 TL084
XU18 0 N021 +vcc -vcc N018 TL084
.inc TL084.MOD
.ac dec 100 100 200k
.backanno
.end
